Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___.
 
Chief Complaint:
Line infection
 
Major Surgical or Invasive Procedure:
___ Removal of ___ Catheter
___ Replacement of ___ Catheter
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  
Ms. ___ is a ___ yo F w/ PMH POTS (on home IVF), 
multiple
admission for line infections (most recent ___, who presents
with concern for infected tunneled line. 

The patient reports she developed fevers and chills the night
prior to hospital admission. She had her home nurse evaluate her
line in the morning. The home nurse was concerned so she sent 
the
patient to ___ for evaluation of possible infection. At ___ 
clinic,
she was tachycardic up to the 140s. Her line was pulled back and
a large amount of malodorous pus was noted from the tunneled 
site
c/w infection. She also had R chest skin erythema determined to
be contact dermatitis from tegaderm. She follows with 
dermatology
for this condition. 

She was sent to the ED for further evaluation. She requires a
central line for vitamin/fluids, which if she does not receive
fluids she experiences syncope.   

In the ED, the patient reported fatigue, lethargy, dizziness,
nausea, SOB. She denied CP. 

Initial VS were: Tc 99.2 102 121/82 18 100% RA 

Exam notable for: Erythematous square rash surrounding tunneled
line, consistent with patient's history of contact dermatitis
Mild fluctuance around tunneled line, small amount of mucoid
drainage No murmur. 

Labs showed:
Lactate:1.3
WBC 10.1

Imaging showed:
___ CXR: No acute intrathoracic process.  Catheter
projecting over the low SVC.

Received:
___ 18:02 PO DiphenhydrAMINE 50 mg  
___ 18:11 IVF  NS ( 1000 mL ordered)
___ 18:18 IV Piperacillin-Tazobactam (4.5 g ordered) 

___ was consulted and removed her ___ tunneled line.   

Transfer VS were:
18:37 98.6 81 106/67 15 100% RA 

On arrival to the floor, patient reports intense pruritis and
mild pain of her R tunneled line site. She attributes this pain
to the chlorhexidine which was used to sterilize the area prior
to pulling her line. She describes the pain as sharp and is
asking for steroid cream. She has chronic pruritis of the R
tunneled line site secondary to the dressings used as she is
allergic. She denies any fevers, chills, N/V, diarrhea,
palpitations, HA, dizziness, or SOB. 

 
Past Medical History:
 -POTs requiring IVF 
 -History of bilateral ovarian cysts  
 -History of drug and alcohol abuse  
 -Anxiety  
 -Depression  
 -History of gastritis and peptic ulcer disease  
 -Chronic fatigue syndrome  
 -Vitamin D deficiency  
 -Hypothyroidism  
 -Recurrent DVTs  
 -GERD  
 -Neuropathy  
 -S/p colectomy  

 
Social History:
___
Family History:
 Mother with no cancer  
 Father- unsure  
 2 brothers and sister are alive and well  
 PGM with breast cancer, DM, CVD, HTN  
 MGM - breast cancer, DM, HLD, HTN  
 No history of blood clots or bleeding disorders  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.6 PO  118/73 64 18 97 Ra  
GENERAL: Complains of pruritis and is shifting in bed, able to
answer all questions, A/Ox3
HEENT: EOMI, sclera anicteric, MMM
NECK: supple, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, +BS
EXTREMITIES: no ___ edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, raised erythema of R chest 
tunneled
line site and excoriations, no weeping of R chest wall rash  

DISCHARGE PHYSICAL EXAM:  
VS: 98.0, 109/75, HR 74, RR 18, 99% RA
GENERAL:  A/Ox3, NAD, resting comfortably in bed
HEENT: PERRLA, sclera anicteric, MMM, no pharyngeal erythema
NECK: supple, no lymphadenopathy detected  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs. 
CHEST: R anterior tunnel line with minimal erythema and some 
hard
swelling surrounding perimeter of catheter 
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: normal bowel sounds, nondistended, nontender in all
quadrants, +BS
EXTREMITIES: no ___ edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused

 
Pertinent Results:
ADMISSION LABS:
==============

___ 05:30PM BLOOD WBC-10.1*# RBC-4.43 Hgb-12.4 Hct-38.2 
MCV-86 MCH-28.0 MCHC-32.5 RDW-12.7 RDWSD-39.7 Plt ___
___ 05:30PM BLOOD Neuts-70.5 ___ Monos-7.2 Eos-1.1 
Baso-0.7 Im ___ AbsNeut-7.10*# AbsLymp-2.00 AbsMono-0.73 
AbsEos-0.11 AbsBaso-0.07
___ 05:30PM BLOOD Plt ___
___ 05:30PM BLOOD Glucose-95 UreaN-9 Creat-0.7 Na-138 K-4.2 
Cl-101 HCO3-23 AnGap-14

DISCHARGE LABS:
==============

___ 06:25AM BLOOD WBC-6.7 RBC-4.20 Hgb-11.6 Hct-36.4 MCV-87 
MCH-27.6 MCHC-31.9* RDW-12.9 RDWSD-40.6 Plt ___
___ 06:25AM BLOOD Neuts-44.6 ___ Monos-6.8 Eos-8.6* 
Baso-1.0 Im ___ AbsNeut-3.00 AbsLymp-2.58 AbsMono-0.46 
AbsEos-0.58* AbsBaso-0.07
___ 06:25AM BLOOD ___ PTT-33.2 ___
___ 06:25AM BLOOD Glucose-83 UreaN-6 Creat-0.6 Na-144 K-4.5 
Cl-104 HCO3-25 AnGap-15

MICROBIOLOGY:
==============
___ urine culture negative
___ Blood culture ___ bottles positive
___ 5:05 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPH AUREUS COAG +. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus, yeast or other 
fungi. 
         FINAL SENSITIVITIES. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   0.5 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ @ ___, 
___. 
      GRAM POSITIVE COCCI IN CLUSTERS. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 

RELEVANT IMAGING:
================
___ CXR:
Final Report
EXAMINATION:  CHEST (PA AND LAT)
 
INDICATION:  History: ___ with infected line// line placement; 
pna
 
COMPARISON:  Prior study from ___
 
FINDINGS: 
 
PA and lateral views of the chest provided.  Catheter tubing 
projects over the
chest and appears to extend over the low SVC.  Lungs are clear 
bilaterally.
 is no focal consolidation, effusion, or pneumothorax. The 
cardiomediastinal
silhouette is normal. Imaged osseous structures are intact.  No 
free air below
the right hemidiaphragm is seen.
 
IMPRESSION: 
 
No acute intrathoracic process.  Catheter projecting over the 
low SVC.

___ TEE ECHO
Findings
RIGHT ATRIUM/INTERATRIAL SEPTUM: A prominent Chiari network is 
present (normal variant). 

LEFT VENTRICLE: Mild global LV hypokinesis. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal ascending, transverse and descending thoracic 
aorta with no atherosclerotic plaque. Normal aortic diameter at 
the sinus level. Normal ascending aorta diameter. No atheroma in 
aortic arch. No atheroma in descending aorta. 

AORTIC VALVE: Normal aortic valve leaflets (3). No masses or 
vegetations on aortic valve. No AR. 

MITRAL VALVE: Normal mitral valve leaflets. Mild MVP. No mass or 
vegetation on mitral valve. Trivial MR. 

___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. TVP. No mass or vegetation on tricuspid valve. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: Written informed consent was obtained from the 
patient. A TEE was performed in the location listed above. I 
certify I was present in compliance with ___ regulations. The 
patient was monitored by a nurse in ___ throughout the 
procedure. Local anesthesia was provided by benzocaine topical 
spray. The posterior pharynx was anesthetized with 2% viscous 
lidocaine. 0.1 mg of IV glycopyrrolate was given as an 
antisialogogue prior to TEE probe insertion. No TEE related 
complications. Echocardiographic results were reviewed by 
telephone with the houseofficer caring for the patient.
Conclusions
There is mild global left ventricular hypokinesis. Right 
ventricular chamber size and free wall motion are normal. The 
ascending, transverse and descending thoracic aorta are normal 
in diameter and free of atherosclerotic plaque to 45 cm from the 
incisors. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion. No masses or vegetations are 
seen on the aortic valve. No aortic regurgitation is seen. The 
mitral valve leaflets are structurally normal. There is mild 
bileaflet mitral valve prolapse. No mass or vegetation is seen 
on the mitral valve. Trivial mitral regurgitation is seen. 
Tricuspid valve prolapse is present. There is no pericardial 
effusion. 

IMPRESSION: No echocardiographic evidence of endocarditis. 
Mitral and tricuspid valve prolapse. Mild global left 
ventricular systolic dysfunction.

 
Brief Hospital Course:
Key Information for Outpatient Providers:Ms. ___ is a 
___ yo F w/ PMH POTS who presents with MSSA bacteremia ___ 
tunneled line infection. 

ACTIVE PROBLEMS:
================

#MSSA Bacteremia and CLABSI: Patient presented with a Hickman 
catheter that had become lodged in the tunnel. The suture was up 
in the tunnel. Upon withdrawing and removing the catheter in ___ 
frank pus was removed. Patient stated she had some subjective 
fevers to just over ___ F, occasional chills, baseline nausea 
and loose stools. Before blood cultures were returned, patient 
was treated with Vancomycin and Cefepime. She was narrowed to 
Vancomycin upon finding gram positive cocci in clusters. Finally 
she was narrowed to 2 g cefazolin q8h with a MSSA bacteremia. 
She continued to have itching and some swelling with cefazolin 
requiring IV Benadryl. Transitioned to Daptomycin ___ daily 
in an effort to not require IV Benadryl, that was also not 
tolerated. The patient was able to tolerate Ceftriaxone without 
IV Benadryl, thus it was chosen as agent for discharge. As the 
patient has had recurrent line infections, she will begin 2 hour 
ethanol dwells to minimize future risk of infection. She will 
also have a new dressing that is to minimize infection. 72 hours 
after having negative cultures the patient returned to ___ for a 
new line. She was discharged to home with services for her 
ongoing 2 weeks of ceftriaxone (end day ___. 

#Contact dermatitis: Last time the patient was admitted for a 
line infection, cultures were negative and the patient was found 
to have allergic contact dermatitis. Out of concern for repeat 
contact dermatitis, the patient was treated with Clobetasol 
Propionate TID to affected area. After the placement of her new 
central line a new dressing was used which the patient 
tolerated, but she had an episode of bleeding from the line site 
requiring a suture and re-dressing of the site which resulted in 
warmth, swelling and erythema. It was examined by ___, re-dressed 
with her new dressing instead of a tegaderm and the warmth 
abated, the swelling decreased and the erythema improved. 

CHRONIC ISSUES:
===============
# POTS: Patient with chronic POTTs. At home she receives about 3 
L of fluid daily in 3 boluses. She had a peripheral line in the 
hospital and veins sensitive to flow, thus she was infused at a 
slow maintenance rate 3L/24 hours with normal saline throughout 
her admission. 

# GERD: Ranitidine 150 mg PO/NG BID was continued in the 
hospital. 

# Depression / Anxiety: Venlafaxine 150 mg PO/NG BID were 
continued in the hospital

# Recurrent DVTs: Followed by Dr. ___ in ___ ___. Her 
lovenox was continued. 

# s/p Partial sigmoidectomy: In ___ for refractory 
constipation, now with loose BMs. Possible contributor to POTS. 
She continued her loperamide, psyllium prn while in the 
hospital. 

TRANSITIONAL ISSUES:
==================
- Cardiology recommended outpatient surface ECHO for MVP/TVP 
once stabilized 
- Cardiology recommended ___ year surface ECHO to evaluate 
MVP/TVP
- Central line nurse recommended new dressing that has 
antibiotics in it. Patient has package and fresh dressing on 
discharge. She will require further dressings for home. 
- Patient will have follow up with her PCP ___ on 
___
- Patient does not require further follow up from ___ 

MEDICATION CHANGES:
- Please start taking ceftriaxone 1x daily until ___

CODE STATUS: Full
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Cetirizine 10 mg PO DAILY 
3. Chlorpheniramine Maleate 4 mg PO TID 
4. Cholestyramine 4 gm PO TID:PRN diarrhea 
5. Psyllium Wafer 1 WAF PO BID 
6. Prochlorperazine 5 mg PO Q6H:PRN nausea 
7. Melatonin (with B6) (melatonin-pyridoxine (vit B6)) ___ mg 
oral DAILY 
8. Enoxaparin Sodium 80 mg SC Q24H 
Start: ___, First Dose: Next Routine Administration Time 
9. Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea  
10. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
11. Venlafaxine 150 mg PO BID 
12. TraZODone 100 mg PO QHS:PRN insomnia 
13. Tizanidine 4 mg PO QHS:PRN pain  
14. Ranitidine 150 mg PO BID 
15. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
16. DiphenhydrAMINE 50 mg PO QHS:PRN insomnia, pain  
17. LOPERamide 4 mg PO TID:PRN diarrhea 
18. Multivitamins 1 TAB PO DAILY 
19. Loratadine 10 mg PO DAILY 
20. LORazepam 0.5 mg PO DAILY:PRN anxiety  

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV Q 24H 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 grams everyday 
Disp #*9 Intravenous Bag Refills:*0 
2.  Ethanol 70% Catheter DWELL (Tunneled Access Line) 2 mL DWELL 
DAILY 
RX *ethanol (ethyl alcohol) 98 % 2 mL IV daily Disp #*30 Ampule 
Refills:*0 
3.  Enoxaparin Sodium 60 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 60 mg/0.6 mL 60mg .6mL every 12 hours Disp #*60 
Syringe Refills:*0 
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  Cetirizine 10 mg PO DAILY  
6.  Chlorpheniramine Maleate 4 mg PO TID  
7.  Cholestyramine 4 gm PO TID:PRN diarrhea  
8.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID  
9.  DiphenhydrAMINE 50 mg PO QHS:PRN insomnia, pain   
10.  Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea   
11.  LOPERamide 4 mg PO TID:PRN diarrhea  
12.  Loratadine 10 mg PO DAILY  
13.  LORazepam 0.5 mg PO DAILY:PRN anxiety   
14.  Melatonin (with B6) (melatonin-pyridoxine (vit B6)) ___ mg 
oral DAILY  
15.  Multivitamins 1 TAB PO DAILY  
16.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
17.  Prochlorperazine 5 mg PO Q6H:PRN nausea  
18.  Psyllium Wafer 1 WAF PO BID  
19.  Ranitidine 150 mg PO BID  
20.  Tizanidine 4 mg PO QHS:PRN pain   
21.  TraZODone 100 mg PO QHS:PRN insomnia  
22.  Venlafaxine 150 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Methicillin Sensitive Staphylococcus Aureus Bacteremia
Central Line Associated Infection
Allergic Contact Dermatitis
SECONDARY DIAGNOSIS:
POTT"s disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were treated at ___ for an 
infection in your Hickman catheter. 

While you were in the hospital we found out which bacteria was 
causing the infection in your blood. We started you on 
antibiotics for that bacteria. We also looked at the valves of 
your heart because the bacteria often grows on the valves, but 
we did not find any evidence of heart involvement. 

You are being discharged home. You will have a service to help 
you with your infusions and your antibiotic therapy. 

NEW MEDICATION:
- Ceftriaxone 1x daily

It was a pleasure treating you!
~ Your ___ team
 
Followup Instructions:
___